US09358222B2
THF (25 mL) was added to 2-(4-fluorobenzoyl)benzoic acid (5 g, 20.4 mmol) followed by thionyl chloride (2.97 mL, 40.9 mmol) and a catalytic amount of DMF (3 drops). The system was stirred under nitrogen for 4 h at room temperature. Removal of the solvent gave 3-chloro-3-(4-fluorophenyl)-3H-isobenzofuran-1-one as a colourless oil (5.35 g, 20.4 mmol, 100%).

reactant | 2-(4-fluorobenzoyl)benzoic acid | 20.4 mmol, 5 g | FC1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1 | C14H9FO3
reactant | thionyl chloride | 40.9 mmol, 2.97 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 3-chloro-3-(4-fluorophenyl)-3H-isobenzofuran-1-one | 20.4 mmol, 5.35 g, 100% | ClC1(OC(C2=CC=CC=C12)=O)C1=CC=C(C=C1)F | C14H8ClFO2
